US06235789B1
1-[2-(Acetylamino)ethyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of (E)-1-[2-(acetylamino)ethylidene]-7-methoxy-1,2,3,4tetrahydronaphthalene (2.55 g, 10 mmol) in ethanol (20 ml) was added 5% palladium/carbon (50% hydrous, 400 mg). The mixture was subjected to catalytic reduction at normal pressure under hydrogen atmosphere. After the completion of hydrogenation, the palladium/carbon was then filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (chloroform:methanol=98:2) to give the above-titled compound (2.2 g, yield 86%, oil).

reactant | (E)-1-[2-(acetylamino)ethylidene]-7-methoxy-1,2,3,4tetrahydronaphthalene | 10 mmol, 2.55 g | C(C)(=O)NC\C=C\1/CCCC2=CC=C(C=C12)OC | C15H19NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 400 mg | [Pd] | Pd
product | 1-[2-(Acetylamino)ethyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene | 2.2 g, yield 86% | C(C)(=O)NCCC1CCCC2=CC=C(C=C12)OC | C15H21NO2
